*#######################################################################
*
* Copyright 2023 IHP PDK Authors
* 
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
* 
*    https://www.apache.org/licenses/LICENSE-2.0
* 
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
*#######################################################################

.include "$PDK_ROOT/$PDK/libs.tech/ngspice/models/ihp_diode_va.lib"


**************************************
* Device: dantenna
* Testfield: T262
* Technology: IHP SG13S technologies
* Lot: AWL403#A
* Wafer: 19
* Chip: 4,7
* Segment: S350B
* DUTs: D1 (area), D2 (perimeter) and D4 (corners)
* Temperature range: -40°C ... +125°C
* DC range: -15V ... 1V
* Date: 05.03.2013
* 24.03.2015 WW area dependency and temperature dependency 
* for dantenna and dpantenna break down updated
* Remarks: model is designed for reverse direction of the diodes
*          NO statistics
*          initial model
*  DEV_A = area of the diode in um*umnew
*  DEV_P = perimeter of the diode in um
*  DEV_C = number of corners (default=4)
*************************************

.subckt dantenna 1 2 l=780n w=780n m=1
Xdantenna 1 2 dantenna_va l={l} w={w} m={m}
.ends dantenna

**************************************
* Device: dpantenna
* Testfield: T262
* Technology: IHP SG13S technologies
* Lot: AWL403#A
* Wafer: 19
* Chip: 4,7
* Segment: S351B
* DUTs: D1 (area), D2 (perimeter) and D4 (corners)
* Temperature range: -40°C ... +125°C
* DC range: -15V ... 1V
* Date: 05.03.2013
* Remarks: model is designed for reverse direction of the diodes
*          bipolar effect in forward direction is NOT modeled
*          NO statistics
*          initial model
*  DEV_A = area of the diode in um*um
*  DEV_P = perimeter of the diode in um
*  DEV_C = number of corners (default=4)
*************************************

.subckt dpantenna 1 2 l=780n w=780n m=1
Xdpantenna 1 2 dpantenna_va l={l} w={w} m={m}
.ends dpantenna


**************************************
* Device: isolbox
* Testfield: T327
* Technology: all IHP 0u13 technologies (SG13S, SG13G2)
* Lot: PQE701
* Wafer: 08
* Chip: 6,4;6,5
* DUTs: IS102..107;IS202...IS210
* Temperature range: -40°C ... +125°C
* DC range: -80V ... 1V (depending on pWellBlock width)
* Operator: Teply
* Date: 2016-03-31
* Remarks: bipolar effect NOT taken into account
*          model is designed for reverse direction of the diodes
*          NO statistics
*          initial model
*************************************

*******************************************************************************
* isolbox
*******************************************************************************

.subckt isolbox isosub NWell bn
.params
+l=3u
+w=3u
+aw=(w-2.1u)*(l-2.1u)
+pw=(w+l)*2-8*1.05u
+ab=(w*l)
+pb=(w+l)*2
+xd=0
+mf=1
+scaling=1e-6
+xds=xd/scaling
+pbs=pb/scaling
+abus=ab/(scaling*scaling)
+pws=pw/scaling
+aws=aw/(scaling*scaling)

xdpwdnw isosub NWell dpwdnw l='l' w='w'
+aw=aw
+pw=pw
+xd=xd
+mf=mf
+scaling=scaling
+xds=xds
+pws=pws
+aws=aws

xdnwpsub NWell bn ddnwpsub l='l' w='w'
+ab=ab
+pb=pb
+xd=xd
+mf=mf
+scaling=scaling
+xds=xds
+pbs=pbs
+abus=abus

.ends isolbox


.subckt dpwdnw isosub NWell
.params
+l=3u
+w=3u
+aw=(w-2.1u)*(l-2.1u)
+pw=(w+l)*2-8*1.05u
+xd=0
+mf=1
+scaling=1e-6
+xds=xd/scaling
+pws=pw/scaling
+aws=aw/(scaling*scaling)

N_DINNER isosub NWell dinner_mod area={mf*aws*1e-12} perim=0 mult=1
N_DINNEREDGE isosub NWell dinneredge_mod area={mf*pws*1e-12} perim={mf*pws*1e-6} mult=1
N_DINREVL NWell isosub dinrevl_mod area={mf*aws*1e-12} perim=0 mult=1
N_DINREVLSIDE NWell isosub dinrevlside_mod area={mf*pws*1e-12} perim=0 mult=1
N_DINREVH NWell isosub dinrevh_mod area={mf*aws*1e-12} perim=0 mult=1
N_DINCAPAREA isosub NWell dincaparea_mod area={mf*aws*1e-12} perim={(mf*pws-3)*1e-6} mult=1

.model dinner_mod ihp_diode_va (
+tnom_c=27 shared_junction=1 gsh=1e-12 is_a=1.5e-7 n_a=1.02 isr_a=0
+ibv_a=1e-3 bv_a=9.7 nbv_a=0.1
+xti_a=1.9 tcv_a=-698.557e-6
+gser_a=2e6
+)

.model dinrevl_mod ihp_diode_va (
+tnom_c=27 shared_junction=1 gsh=1e-12 is_a=1e-6 n_a=100 isr_a=0
+ibv_a=0 bv_a=30 nbv_a=1 xti_a=2200
+gser_a=1e6
+)

.model dinrevlside_mod ihp_diode_va (
+tnom_c=27 shared_junction=1 gsh=1e-12 is_a=1e-5 n_a=100 isr_a=0
+ibv_a=0 bv_a=30 nbv_a=1 xti_a=2200
+gser_a=1e6
+)

.model dinrevh_mod ihp_diode_va (
+tnom_c=27 shared_junction=1 gsh=1e-12 is_a=3e-9 n_a=30 isr_a=0
+ibv_a=0 bv_a=30 nbv_a=1 xti_a=700
+gser_a=1e6
+)

.model dincaparea_mod ihp_diode_va (
+tnom_c=27 shared_junction=1 gsh=1e-12 is_a=1e-13 n_a=1 isr_a=0
+ibv_a=0 bv_a=30 nbv_a=1
+cj0_a=967.2e-6 mj_a=0.3436 vj_a=0.7312
+cj0_p=436e-12 mj_p=0.3234 vj_p=0.7036
+gser_a=1e12 gser_p=1e6
+)

.model dinneredge_mod ihp_diode_va (
+tnom_c=27 shared_junction=1 gsh=1e-12 is_a=3.89e-8 n_a=1.01 isr_a=20e-6
+ibv_a=1 bv_a=9.7 nbv_a=0.1
+is_p=7.239e-14 n_p=1.01
+xti_a=1.529 xti_p=1.529 tcv_a=-698.557e-6
+gser_a=2e7 gser_p=20
+)

.ends dpwdnw


.subckt ddnwpsub NWell bn
.params
+l=3u
+w=3u
+ab=(w*l)
+pb=(w+l)*2
+xd=0
+mf=1
+scaling=1e-6
+xds=xd/scaling
+pbs=pb/scaling
+abus=ab/(scaling*scaling)

N_DOUTER bn NWell dsub_mod area={mf*abus*1e-12} perim=0 mult=1

.if (xds<0.6)
   N_DOUTEREDGE0 bn NWell dsubedge0_mod area={mf*pbs*1e-12} perim={mf*pbs*1e-6} mult=1
.else
   N_DOUTEREDGEXDS bn NWell dsubedgexds_mod area={mf*pbs*1e-12} perim={mf*pbs*1e-6} mult=1
.endif

N_DOUTCAPCORNER bn NWell doutcapcorner_mod area=1.0e-22 perim={mf*14.4e-6} mult=1
N_DOUTCAPAREA bn NWell doutcaparea_mod area={mf*abus*1e-12} perim={mf*pbs*1e-6} mult=1

.model dsub_mod ihp_diode_va (
+tnom_c=27 shared_junction=1 gsh=1e-12 is_a=4.052e-6 n_a=1.01 isr_a=86e-6
+knee_current_a=1.023e3 xti_a=2.112
+ibv_a=100 bv_a=94.7 nbv_a=6 tcv_a=-422.386e-6
+gser_a=2e6
+)

.model dsubedge0_mod ihp_diode_va (
+tnom_c=27 shared_junction=1 gsh=1e-12 is_a=4.052e-6 n_a=1.01 isr_a=10e-6
+is_p=17.26e-12 n_p=1.01
+knee_current_a=1.023e3 xti_a=2.112 xti_p=2.112
+ibv_a=100 bv_a=13.54 nbv_a=0.5 tcv_a=-747.415e-6
+gser_a=1e8 gser_p=100
+)

.model dsubedgexds_mod ihp_diode_va (
+tnom_c=27 shared_junction=1 gsh=1e-12 is_a=4.052e-6 n_a=1.01 isr_a=100e-6
+is_p=17.26e-12 n_p=1.01
+knee_current_a=1.023e3 xti_a=2.112 xti_p=2.112
+ibv_a=100
+bv_a='(-11.70818-8.218455*xds+9.586918*ln(xds)+51.45397*sqrt(xds))'
+nbv_a='5.452942+(0.4699715-5.452942)/((1+((xds/0.982607)**308.6349))**0.005495705)'
+tcv_a=-980.73e-6
+gser_a=35714285.7143 gser_p=57.1428571429
+)

.model doutcapcorner_mod ihp_diode_va (
+tnom_c=27 shared_junction=1 gsh=1e-12 is_a=0 is_p=0 is_c=0
+cj0_p='(389.8354-784.332*xds+736.9852*(xds**1.33)-91.4155*xds*xds+5.388092*xds*xds*xds)*1e-12'
+mj_p='0.3029153+16.37804*xds-16.45657*(xds**0.9972906)'
+vj_p='0.05502945+((0.51-0.05502945)/(1+((xds/1.059131)**7.087824)))'
+ibv_a=100
+bv_a='(213.2898+(145-213.2898)/((1+(xds/0.9145351)**38.88081)**0.02169905))'
+nbv_a=200
+gser_a=1e12 gser_p=1e6
+)

.model doutcaparea_mod ihp_diode_va (
+tnom_c=27 shared_junction=1 gsh=1e-12 is_a=1e-13 n_a=1
+cj0_a=70.13e-6 mj_a=0.3874 vj_a=0.3357
+cj0_p='(471.3008-320.939*xds+91.4155*xds*xds-5.388092*xds*xds*xds)*1e-12'
+mj_p='0.2842892-0.1665323*xds+0.06902971*xds*xds-0.004775717*xds*xds*xds'
+vj_p='0.6372219-0.6615502*sqrt(xds)+0.2246224*xds-0.0005250178*xds*xds*xds'
+ibv_a=100
+bv_a='(262.7082+((154.5533-262.7082)/(1+(xds/3.044691)**1.691568)))'
+nbv_a=200
+gser_a=1e12 gser_p=1e6
+)

.ends ddnwpsub
